Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Acai
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ female with PMHx IDDM, schizophrenia, HTN 
and HLD, who is presenting with syncope. The daughter is at the 
bedside helping with translation. The patient reports that she 
has had 3 episodes of syncope over the past week. The first 
episode occurred last ___ when she was in her garden. She 
tried standing up from squatting and felt lightheaded and noted 
that her vision faded to black. This time she did not lose 
consciousness. After this episode, she noted some tingling in 
her bilateral upper extremities. She went to see her PCP who 
believed that her tingling was due to diabetic neuropathy and 
prescribed her duloxetine.  
 The second episode occurred the day of admission. Similarly, 
the patient reports going from sitting to standing with 
associated lightheadedness and blacking out of her vision. She 
fell to the ground and woke up on the floor. She reports that 
she hit her head. Later that afternoon she again had a similar 
episode in front of her daughter. Her daughter was able to catch 
her a lower her to the ground. Her daughter did not notice any 
jerking movements or any loss of bowel or bladder continence. 
Patient denies any preceding chest pain, palpitations, shortness 
of breath, nausea, vomiting, diaphoresis. Denies any recent 
fevers, chills, headache, abdominal pain, changes in bowel or 
bladder habits.  
 In the ED, initial vitals were: 98.8 101 106/46 18 99% RA  
 -Labs notable for:  
 Chem 7 wnl (except glucose 337)  
 Trop-T: <0.01  
 -EKG: sinus @ 100, normal axis, normal intervals, no evidence 
of infarct or ischemia  
 -Imaging notable for:  
 CT c-spine: Moderate, multilevel degenerative changes of the 
cervical spine without evidence for acute fracture or traumatic 
subluxation.  
 Ct head: No evidence for acute intracranial process.  
 Shoulder X ray: ___
Family History:
No family history of early MI, arrhythmia, or sudden cardiac 
death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.4 147/66 97 17 94% RA 64.8 Kg  
 GENERAL: well appearing woman in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB, No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  
 PULSES: Distal pulses palpable and symmetric  
 NEURO: CN II-XII in tact. Motor and sensation in tact.  

DISCHARGE PHYSICAL EXAM:
VS - Tmax 98.5 BP 126/55 RR 16, 02 sat 99 on RA  
General: well appearing, NAD, resting in chair
HEENT: MMM, EOMI
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: soft, nontender, nondistended, no HSM appreciated  
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: CN2-12 intact, good strength bilaterally

 
Pertinent Results:
ADMISSION RESULTS:
___ 06:05AM BLOOD WBC-6.3 RBC-4.19 Hgb-11.9 Hct-36.7 MCV-88 
MCH-28.4 MCHC-32.4 RDW-13.3 RDWSD-42.7 Plt ___
___ 05:54PM BLOOD Neuts-70.8 ___ Monos-6.2 Eos-0.8* 
Baso-0.6 Im ___ AbsNeut-6.86* AbsLymp-2.04 AbsMono-0.60 
AbsEos-0.08 AbsBaso-0.06
___ 05:54PM BLOOD ___ PTT-28.9 ___
___ 05:54PM BLOOD Glucose-337* UreaN-17 Creat-0.8 Na-133 
K-4.4 Cl-96 HCO3-26 AnGap-15
___ 05:54PM BLOOD cTropnT-<0.01
___ 06:05AM BLOOD cTropnT-<0.01
___ 05:54PM BLOOD Calcium-8.9 Phos-3.1 Mg-2.1
___ 05:54PM BLOOD D-Dimer-483
___ 05:41AM URINE Color-Straw Appear-Clear Sp ___
___ 05:41AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

NOTABLE RESULTS:
___ L Shoulder XRay:
IMPRESSION:    
No acute fracture or dislocation. 

___ CXR:
IMPRESSION:  
No acute cardiopulmonary abnormality. 

___ CT Head w/o Contrast:
IMPRESSION:    
No evidence for acute intracranial process. 

___ CT C-Spine w/o Contrast:
IMPRESSION:    
Moderate, multilevel degenerative changes of the cervical spine 
without 
evidence for acute fracture or traumatic subluxation. 
  
DISCHARGE RESULTS:
___ 07:20AM BLOOD WBC-5.8 RBC-4.21 Hgb-11.8 Hct-36.9 MCV-88 
MCH-28.0 MCHC-32.0 RDW-13.3 RDWSD-42.3 Plt ___
___ 07:20AM BLOOD Glucose-164* UreaN-13 Creat-0.6 Na-137 
K-4.6 Cl-101 HCO3-26 AnGap-15
___ 07:20AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.___ hx insulin-dependent diabetes complicated by peripheral 
neuropathy, hypertension, hyperlipidemia, schizophrenia, 
presents for syncope, found to be orthostatic. 

ACTIVE ISSUES:
# Syncope: Patient presenting with 3 episodes of syncope within 
the past week. Symptoms of lightheadedness and vision blacking 
out most consistent with orthostasis, proven by vital signs on 
morning of admission to the floor. She received 2L IVF and her 
recently prescribed nortriptyline was stopped (as were her 
antihypertensives). EKG and troponins were negative for 
ischemia, and she had no cardiac events on telemetry; neurologic 
exam was intact. 

# Borderline Thrombocytosis: Admission PLT 435, stable through 
hospitalization. Unknown etiology, no signs of infection to 
suggest reactive process, no current CBC findings to suggest 
proliferative disease. 

CHRONIC ISSUES:
# Diabetes Mellitus: Continued home Lantus with ISS while in 
house; held home metformin and liraglutide.
 
# Hypertension: Held antihypertensives were held as above.

# HLD: Continued home pravastatin.

# Schizophrenia: Patient gets IM Haldol injections every 90 
days, last due ___. Held this injection for outpatient 
consideration in setting of orthostasis because patient's 
daughter reported it makes her feel weak. She will follow-up 
with her outpatient providers. 

TRANSITIONAL ISSUES:
- Consider restarting amlodipine and losartan in the outpatient 
setting, as pressures will tolerated
- Nortriptyline was stopped during hospitalization as it may 
have contributed to her orthostatic hypotension
- Borderline thrombocytosis may be worked up as appropriate in 
the outpatient setting
- Consider adjustment of home diabetes regimen in the outpatient 
setting 
- Patient due for Haldol IM injection - instructed her and her 
family to follow-up with PCP ___ mental health providers 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Haloperidol Decanoate 50 mg IM Q3MONTHS 
2. MetFORMIN (Glucophage) 750 mg PO TID 
3. amLODIPine 5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
6. Pravastatin 20 mg PO QPM 
7. Glargine 50 Units Breakfast
8. Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY 
9. Losartan Potassium 50 mg PO DAILY 
10. Loratadine 10 mg PO DAILY 
11. Ketoconazole 2%  1 Appl TP DAILY 
12. Nortriptyline 10 mg PO QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Glargine 50 Units Breakfast
3. Pravastatin 20 mg PO QPM 
4. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
5. Haloperidol Decanoate 50 mg IM Q3MONTHS 
Please call your PCP or mental health provider on discharge to 
reschedule this injection.  
6. Ketoconazole 2%  1 Appl TP DAILY 
7. Loratadine 10 mg PO DAILY 
8. MetFORMIN (Glucophage) 750 mg PO TID 
9. Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Orthostatic Hypotension
Borderline Thrombocytosis

Secondary Diagnoses:
Diabetes
Hypertension
Hyperlipdemia
Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
because you had several episodes of darkening vision and passing 
out. We call these kinds of episodes "syncope".

While you were here, we did not find evidence of an infection. 
We also monitored your heart rhythm, which was normal. We think 
that the reason you passed out is because you didn't have a high 
enough blood pressure. We gave you some IV fluids and stopped 
your blood pressure medications, and you were better.

When you go home, please follow up with your primary care 
doctor, who can carefully restart your blood pressure 
medications. Until you see your primary care physician, please 
do not take amlodipine or losartan. Please do not take 
Nortriptyline either. 

Please return to our facility or another hospital if you 
experience chest pain, shortness of breath, or another episode 
of passing out.

Thank you for allowing us to care for you here,
Your ___ care team
 
Followup Instructions:
___